US07674804B2
(2,6-Dichloro-pyrimidin-4-yl)-piperidin-4-yl-amine dihydrochloride
A solution of 4-(2,6-dichloro-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (3.1 g, 8.93 mmol) in ethanol (40 mL) and 4 M HCl in dioxane (70 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 247.3 [M+H]+.

reactant | 4-(2,6-dichloro-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 8.93 mmol, 3.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=NC(=C1)Cl)Cl | C14H20Cl2N4O2
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
product | (2,6-Dichloro-pyrimidin-4-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.ClC1=NC(=CC(=N1)NC1CCNCC1)Cl | InChI=1S/C9H12Cl2N4.2ClH/c10-7-5-8(15-9(11)14-7)13-6-1-3-12-4-2-6;;/h5-6,12H,1-4H2,(H,13,14,15);2*1H
